US07560551B2
Synthesis of 4-(2-chloropyridin-3-yl)-N-(3-morpholinopropyl)pyrimidin-2-amine
To 2-chloro-4-(2-chloropyridin-3-yl)pyrimidine (100 mg, 0.44 mmol) and potassium carbonate (122 mg, 0.88 mmol) was added DMSO (1.0 mL) and 3-morpholinopropan-1-amine (77 mg, 0.53 mmol). The resulting mixture was heated for 15 hours at 80° C. The cooled reaction was diluted with EtOAc and extracted with water. The organic layer was dried over sodium sulfate, filtered and concentrated to yield the desired product as a yellow oil. MS m/z=334 [M+M]+. Calc'd for C16H20ClN5O: 333.84.

reactant | 2-chloro-4-(2-chloropyridin-3-yl)pyrimidine | 0.44 mmol, 100 mg | ClC1=NC=CC(=N1)C=1C(=NC=CC1)Cl | C9H5Cl2N3
reactant | potassium carbonate | 0.88 mmol, 122 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 1.0 mL | CS(=O)C | C2H6OS
reactant | 3-morpholinopropan-1-amine | 0.53 mmol, 77 mg | O1CCN(CC1)CCCN | C7H16N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-chloropyridin-3-yl)-N-(3-morpholinopropyl)pyrimidin-2-amine | ClC1=NC=CC=C1C1=NC(=NC=C1)NCCCN1CCOCC1 | C16H20ClN5O
